US07622487B2
To a solution of 2,3-dihydro-1-benzofuran-5-amine (4.5 g) and Et3N (6.1 ml) in dichloromethane (40 ml), trifluoroacetic anhydride (6.2 ml) was added at 0° C., and the reaction mixture was stirred at room temperature for 2 hours. The reaction mixture was poured into water, and then the product was extracted with ethyl acetate. The organic layer was washed with an aqueous saturated ammonium chloride solution and saturated brine, dried, and then the solvent was evaporated under reduced pressure to obtain N-(2,3-dihydro-1-benzofuran-5-yl)-2,2,2-trifluoroacetamide (7.1 g) as pale orange crystals.

reactant | 2,3-dihydro-1-benzofuran-5-amine | 4.5 g | O1CCC2=C1C=CC(=C2)N | C8H9NO
reactant | Et3N | 6.1 ml | CCN(CC)CC | C6H15N
reactant | water | O | H2O
reactant | trifluoroacetic anhydride | 6.2 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | N-(2,3-dihydro-1-benzofuran-5-yl)-2,2,2-trifluoroacetamide | 7.1 g | O1CCC2=C1C=CC(=C2)NC(C(F)(F)F)=O | C10H8F3NO2
